US05716936
A The process is performed as described in Example 2A, but starting with 3.2 g of (2RS,4SR,5RS)-1-{2-[3-(3-benzyloxycarbonylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-4-(2-fluorophenyl)sulphonyl-2-isobutylcarbamoylpyrrolidine, 0.35 g of 10% palladium-on-charcoal and 100 cm3 of ethanol under a hydrogen atmosphere (130 kPa). After treatment, 2.3 g of (2RS,4SR,5RS)-3-(3-{2-[5-(2-fluorophenyl)-4-(2-fluorophenyl)sulphonyl-2-isobutylcarbamoyl-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid are obtained [Rf=0.3; eluent: methylene chloride/methanol (90/10); 1H NMR spectrum (200 MHz, (CD3)2SO with addition of a few drops of CD3COOD, at a temperature of 83 K, δ in ppm): 0.96 (d, J=6.5 Hz, 6H: C(CH3)2); 1.88 (mt, 1H: CH); from 2.45 to 2.65 and 2.90 (2 mts, 1H each: CH2 at 3); 3.09 (mt, 2H: NCH2); 3.70 and 3.90 (broad d and d respectively, J=17 Hz, 1H each: COCH2N); 4.14 (mt, 1H: H4); 4.86 (t, J=8 Hz, 1H: H2); 5.70 (d, J=3 Hz, 1H: H5); from 6.90 to 8.00 (mt, 10H: aromatic H); 8.00 (mt, 1H: aromatic H (H2: ortho to the COOH)); 8.20 (broad t, J=8 Hz, 1H: H of the aromatic at 5 (H6))].

reactant | (2RS,4SR,5RS)-1-{2-[3-(3-benzyloxycarbonylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-4-(2-fluorophenyl)sulphonyl-2-isobutylcarbamoylpyrrolidine | 3.2 g | C(C1=CC=CC=C1)OC(=O)C=1C=C(C=CC1)NC(NCC(=O)N1C(CC(C1C1=C(C=CC=C1)F)S(=O)(=O)C1=C(C=CC=C1)F)C(NCC(C)C)=O)=O | C38H38F2N4O7S
catalyst | palladium-on-charcoal | 0.35 g | [Pd] | Pd
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
product | (2RS,4SR,5RS)-3-(3-{2-[5-(2-fluorophenyl)-4-(2-fluorophenyl)sulphonyl-2-isobutylcarbamoyl-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid | 2.3 g | FC1=C(C=CC=C1)C1C(CC(N1C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O)C(NCC(C)C)=O)S(=O)(=O)C1=C(C=CC=C1)F | C31H32F2N4O7S
